US07947686B2
Step 6. Preparation of 5-(3,5-difluoro-benzenesulfonyl)-1-trityl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridin-3-ylamine [(XVI), Ra=Rb=H, R=3,5-difluorophenyl]
To a suspension of N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridin-3-yl]-2,2,2-trifluoro-acetamide (106.65 mmol) in methanol (500 mL), triethylamine (150 mL) was added and the mixture was refluxed for 36 hours and then evaporated to dryness. The crude was treated with a mixture of diethylether (400 mL) and methanol (100 mL), stirred at room temperature for 30 min., filtered and washed with diethylether. After drying in vacuo the title compound was obtained as white solid (50.5 g, 86%).

reactant | N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridin-3-yl]-2,2,2-trifluoro-acetamide | 106.65 mmol | FC=1C=C(C=C(C1)F)S(=O)(=O)N1CC2=C(CC1)N(N=C2NC(C(F)(F)F)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C33H25F5N4O3S
solvent | methanol | 500 mL | CO | CH4O
solvent | triethylamine | 150 mL | C(C)N(CC)CC | C6H15N
product | 5-(3,5-difluoro-benzenesulfonyl)-1-trityl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridin-3-ylamine | 50.5 g, 86% | FC=1C=C(C=C(C1)F)S(=O)(=O)N1CC2=C(CC1)N(N=C2N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H26F2N4O2S
